US04618363
34.6 g of 2-hydroxybenzenesulfonamide and 55.3 g of potassium carbonate are added to 800 ml of acetonitrile. With efficient stirring, 33.4 g of methyl 2-bromopropionate are added dropwise over 10 minutes and the suspension is then heated for 5 hours to 45° C. After the reaction mixture has cooled, the precipitated salts are isolated and the filtrate is concentrated in vacuo. The residue is recrystallised from ethanol, affording 41.8 g of 2-(1-methoxycarbonylethoxy)benzenesulfonamide with a melting point of 140°-142° C.

reactant | 2-hydroxybenzenesulfonamide | 34.6 g | OC1=C(C=CC=C1)S(=O)(=O)N | C6H7NO3S
reactant | potassium carbonate | 55.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 2-bromopropionate | 33.4 g | BrC(C(=O)OC)C | C4H7BrO2
solvent | acetonitrile | 800 ml | C(C)#N | C2H3N
product | 2-(1-methoxycarbonylethoxy)benzenesulfonamide | 41.8 g | COC(=O)C(C)OC1=C(C=CC=C1)S(=O)(=O)N | C10H13NO5S
